US04865618
Preparation of 3,5-diamino-2,4-diethoxychlorobenzene dihydrochloride
170 g of powdered iron which had been reduced with hydrogen were added to 450 ml of water containing 8.5 ml of acetic acid which had previously been heated to 80° C., and then 0.3 mole (87 g) of 3,5-dinitro-2,4-diethoxychlorobenzene was added gradually, with stirring. Upon completion of the additions, the reaction mixture was maintained in a boiling water bath for 30 additional minutes. After cooling, the reaction mixture was centrifuged. The iron slurries were made to a paste again with ethyl acetate, and the mother liquors were extracted with ethyl acetate. The ethyl acetate phases joined together were washed with water and then dried over Na2SO4. Upon addition of a hydrochloric acid solution in ethanol, the expected product precipitated. After thorough draining, it was washed with acetone. It was recrystallized from an aqueous-alcoholic solution of hydrochloric acid.

reactant | hydrogen | [H][H] | H2
reactant | water | 450 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 3,5-dinitro-2,4-diethoxychlorobenzene | 0.3 mole, 87 g | [N+](=O)([O-])C=1C(=C(C=C(C1OCC)[N+](=O)[O-])Cl)OCC | C10H11ClN2O6
catalyst | iron | 170 g | [Fe] | Fe
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-diamino-2,4-diethoxychlorobenzene dihydrochloride | Cl.Cl.NC=1C(=C(C=C(C1OCC)N)Cl)OCC | InChI=1S/C10H15ClN2O2.2ClH/c1-3-14-9-6(11)5-7(12)10(8(9)13)15-4-2;;/h5H,3-4,12-13H2,1-2H3;2*1H
